US07112582B2
Step 1: Preparation of 6,7,8,9-Tetrahydro-5H-imidazo[1,2-a]azepine-2-carbaldehyde
Thiocaprolactam (6.45 gram, 50 mmol) was dissolved in 400 ml CH2Cl2 and methyl iodide (16 ml, 5eq) was next added. The mixture was stirred under nitrogen for 18 hrs. Then it was treated with 100 ml potassium carbonate (50%, aq.). The organic layer was then dried over magnesium sulfate. After filtration and concentration 7.3 gram of material was obtained. This material was dissolved 300 ml ethanol and 2.83 gram of ammonium chloride was added. The mixture was refluxed for 1 hr. Then the solvent was removed in vacuo. Half of the material was added 200 ml ethanol and then followed by addition of 1.35 gram (25 mmol) sodium methoxide and 4.8 gram (25 mmol) 2-Bromo-3-isopropoxy-propenal and the mixture was stirred at 23° C. for 2 hrs. Then the solvent was removed and 200 ml chloroform was added along with 10 ml triethyl amine. The mixture was refluxed for 2 hrs and then cooled to 23° C. The reaction media was partitioned between 300 ml DCM and 2×150 potassium carbonate (50%). The organic layer was dried over magnesium sulfate. After filtration and concentration 2.1 gram of oil product was obtained.

reactant | Thiocaprolactam | 50 mmol, 6.45 gram | C1(CCCCCN1)=S | C6H11NS
reactant | methyl iodide | 16 ml, 5eq | CI | CH3I
reactant | potassium carbonate | 100 ml | C([O-])([O-])=O.[K+].[K+]
reactant | ammonium chloride | 2.83 gram | [Cl-].[NH4+]
reactant | sodium methoxide | 25 mmol, 1.35 gram | C[O-].[Na+]
reactant | 2-Bromo-3-isopropoxy-propenal | 25 mmol, 4.8 gram | BrC(C=O)=COC(C)C | C6H9BrO2
solvent | CH2Cl2 | 400 ml | C(Cl)Cl | CH2Cl2
solvent | ethanol | 300 ml | C(C)O | C2H6O
product | 6,7,8,9-Tetrahydro-5H-imidazo[1,2-a]azepine-2-carbaldehyde | N=1C(=CN2C1CCCCC2)C=O | C9H12N2O
